US08211914B2
To a mixture of 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (500 mg, 1.90 mmol) in methylene chloride (15 mL) was added oxalyl chloride (0.34 mL, 3.80 mmol) dropwise at 0° C. This was followed by a drop of DMF. The reaction was warmed to room temperature and stirred at room temperature for 1.5 hr. The mixture was concentrated to dryness to afford 2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl chloride as a light yellow solid which was used in the next step without further purification.

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | 1.90 mmol, 500 mg | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | oxalyl chloride | 3.80 mmol, 0.34 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl chloride | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)Cl)C(F)(F)F | C11H5ClF3NO2
